Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE laceration from circular saw
 
Major Surgical or Invasive Procedure:
___: Irrigation and debridement with closure of a deep 
right anterior thigh wound 

 
History of Present Illness:
The patient is a ___ male who presented on transfer from 
___ with a right inferior thigh wound.  He 
was using a circular saw that slipped and hit his anterior 
thigh.  He was ambulatory at the scene; however, a belt was 
applied as well as a tourniquet by prehospital providers.  He 
was transferred to ___ where he underwent CT scanning 
showing a large laceration.  He was given antibiotics; however, 
only minimal washout was
performed.  He was then transferred for trauma evaluation at 
___.  On our evaluation, he was hemodynamically stable 
and due to the large size of this wound and his obvious 
discomfort it was felt to be best repaired in the operating 
room. 

 
Past Medical History:
Past Medical History:hypertension, depression

Past Surgical History: chest tubes placed ___ years ago due to a
left nail gun injury to the chest, excision of BCC from chest
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
Temp: 98.5 HR: 78 BP: 135/88 Resp: 18 O(2)Sat: 98 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Extraocular muscles intact
Oropharynx within normal limits
Chest: no wheezing, no stridor
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema, + pulses
Skin: large, deep complex laceration with muscle involvement
R anterior thigh
Neuro: Speech fluent, full strength, nl sensation LT
Psych: Normal mood, Normal mentation
___: No petechiae

Discharge Physical Exam:
VS: 98.1, 120/71, 63, 20, 96% ra
Gen: A&O x3, lying in bed in NAD
CV: HRR
Pulm: LD ctab
Abd: soft, NT/ND
Ext: right thigh wound closed with sutures  and xeroform 
dressing. Site CDI no erythema, swelling or drainage. Leg 
immobilizer in place. 
 
Pertinent Results:
___ 02:53AM BLOOD WBC-11.0* RBC-4.58* Hgb-14.2 Hct-42.0 
MCV-92 MCH-31.0 MCHC-33.8 RDW-13.3 RDWSD-44.9 Plt ___
___ 12:30AM BLOOD Glucose-98 UreaN-16 Creat-1.0 Na-142 
K-4.0 Cl-106 HCO3-23 AnGap-13

Imaging:
CTA: No evidence of major arterial injury to the right thigh.
Intact femoral arteries. No evidence of arterial extrav. at the
site of the wound/ Large anterior thigh wound involving the
quadriceps muscle. RLE arterial runoff. Intact osseous
structures. 

 
Brief Hospital Course:
___ year old male with large RLE wound following circular saw 
injury. He is neurovascularly intact and hemodynamically stable. 
He was admitted to the Acute Care Trauma Surgery service for 
further management. He was taken to the operating room and 
underwent irrigation and debridement with closure of a deep 
right anterior thigh wound  which went well without complication 
(reader referred to the Operative Note for details). After a 
brief, uneventful stay in the PACU, the patient arrived on the 
floor tolerating a regular diet, on IV antibiotics, and oral 
analgesia for pain control. He had a leg immobilizer in place 
and the wound was covered in a DSD. The patient was 
hemodynamically stable.
.
When tolerating a diet, the patient was converted to oral 
antibiotics. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. He was givena prescription to complete a 
course of antibiotics. He would follow-up with his PCP for 
suture removal in his home state of ___ in the following week and 
continue to use the leg immobilizer for 2 weeks. 

 
Medications on Admission:
 BuPROPion XL (Once Daily) 300 mg PO DAILY  
 Enalapril Maleate 10 mg PO DAILY  
 Escitalopram Oxalate 10 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*13 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*14 Packet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
8.  Enalapril Maleate 10 mg PO DAILY  
9.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic laceration through the right thigh involving skin, 
fascia and muscle

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for treatment of a leg injury caused 
by a table saw. You were taken to the operating room and 
underwent a washout, debridement and closure of a large right 
thigh wound. You tolerated the procedure well and are now 
medically cleared for discharge home to continue your recovery. 
You will need to follow-up with your PCP at home for wound care 
and suture removal (they should come out in about 2 weeks). It 
is recommended you use the leg immobilzer for 2 weeks and you 
will be given a prescription to complete a course of 
antibiotics. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids
 
Followup Instructions:
___